US06359138B1
1-(5-Benzyloxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-methoxy-benzyl)-piperidin-4-ol
The title compound MS: m/e=460.2 (M+H+) was prepared from 4-(4-methoxy-benzyl)-piperidin-4-ol and 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran.

reactant | 4-(4-methoxy-benzyl)-piperidin-4-ol | COC1=CC=C(CC2(CCNCC2)O)C=C1 | C13H19NO2
reactant | 5-benzyloxy-2-(RS)-bromomethyl-2,3-dihydro-benzofuran | C(C1=CC=CC=C1)OC=1C=CC2=C(CC(O2)CBr)C1 | C16H15BrO2
product | 1-(5-Benzyloxy-2,3-dihydro-benzofuran-2-ylmethyl)-4-(4-methoxy-benzyl)-piperidin-4-ol | C(C1=CC=CC=C1)OC=1C=CC2=C(CC(O2)CN2CCC(CC2)(O)CC2=CC=C(C=C2)OC)C1 | C29H33NO4
